US06723744B2
Step H: Preparation of 5-[3-(Cyclobutyl-methyl-carbamoyl)-4-hydroxy-phenoxy]-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester
A mixture of p-toluenesulfonic acid (163 mg, 0.86 mmol) and 2-({4-[3-(Cyclobutyl-methyl-carbamoyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-hydrazono)-propionic acid ethyl ester (259 mg, 0.57 mmol) in toluene (2 mL) was heated to reflux. After vigorously stirring at reflux for 1 hour, the reaction mixture was then allowed to cool to room temperature. To which was added saturated aqueous NaHCO3 (15 mL) and EtOAc (20 mL). The EtOAc layer was separated, washed with saturated NaHCO3 (2 times 25 mL), brine (25 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by preparative TLC (4% MeOH in CH2Cl2) to afford the title compound (136 mg) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ9.45 (s, 1H), 8.89 (br s, 1H), 7.23 (s, 1H), 7.16 (s, 1H), 7.04 (dd, 1H), 6.97 (d, 1H), 6.42 (d, 1H), 4.46-4.38 (m, 3H), 2.93 (s, 3H), 2.36 (s, 3H), 2.26 (s, 3H), 2.22-2.01 (m, 2H), 1.74-1.54 (m, 2H), 1.43 (t, 3H), 1.36-1.20 (m, 2H). MS (APCI+) Calc: 436.2, Found: 437.3 (M+1).

reactant | p-toluenesulfonic acid | 0.86 mmol, 163 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-({4-[3-(Cyclobutyl-methyl-carbamoyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-hydrazono)-propionic acid ethyl ester | 0.57 mmol, 259 mg | C(C)OC(C(C)=NNC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)C(N(C)C1CCC1)=O)C)=O | C25H31N3O5
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(Cyclobutyl-methyl-carbamoyl)-4-hydroxy-phenoxy]-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester | 136 mg | C(C)OC(=O)C=1NC2=CC(=C(C(=C2C1)C)OC1=CC(=C(C=C1)O)C(N(C)C1CCC1)=O)C | C25H28N2O5
